US08349824B2
To a solution of 1,2-diamino-4-bromo-pyridinium-2,4,6-trimethyl-benzenesulfonate (Example 1, step a) (8 g, 20.7 mmol) in pyridine (50 ml) was added 3-methoxybenzoyl chloride (6 ml, 41.3 mmol). The reaction mixture was heated at 85° C. for 3 h. Volatiles were removed in vacuum, and the resultant residue was diluted with EtOAc (300 ml). The organic layer was washed successively with water (2×250 ml) and brine (100 ml), dried over anhydrous Na2SO4, filtered, and evaporated in vacuum. The crude material thus obtained was purified by column chromatography over silica gel (10-15% EtOAc/hexane) to afford 7-bromo-2-(3-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (8 g, quant) as white solid. LC-MS: m/z=303.8 [M+H]+.

reactant | 1,2-diamino-4-bromo-pyridinium 2,4,6-trimethyl-benzenesulfonate | N[N+]1=C(C=C(C=C1)Br)N.CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-]
reactant | 3-methoxybenzoyl chloride | 41.3 mmol, 6 ml | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 7-bromo-2-(3-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 8 g | BrC1=CC=2N(C=C1)N=C(N2)C2=CC(=CC=C2)OC | C13H10BrN3O
